US04602029
Preparation of 1-Phenyl-3-trichloromethylthio-5-methylhydantoin
A stirred mixture of 8.0 g (0.042 mole) 1-phenyl-5-methylhydantoin, 8.6 g (0.046 mole) trichloromethylsulfenyl chloride and 1.0 g Aliquat® 336 in 100 ml methylene chloride was cooled in an ice bath. To that mixture a pre-cooled sodium hydroxide solution (4.2 g of 50% sodium hydroxide diluted to 20 g with water) was added at once. The temperature of the reaction mixture rose from 3° C. to 5° C.; stirring was continued for 10 minutes. The methylene chloride layer was separated and washed well with water, dried over magnesium sulfate and stripped to give 15.5 g of an oil. After being washed with cold hexane, the oil slowly solidified. The solid was crystallized from hexane-toluene to give 9.9 g of the above-identified product as a white solid, melting point 113°-114° C.

reactant | 1-phenyl-5-methylhydantoin | 0.042 mole, 8.0 g | C1(=CC=CC=C1)N1C(=O)NC(=O)C1C | C10H10N2O2
reactant | trichloromethylsulfenyl chloride | 0.046 mole, 8.6 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | sodium hydroxide | 4.2 g | [OH-].[Na+]
catalyst | Aliquat® 336 | 1.0 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Phenyl-3-trichloromethylthio-5-methylhydantoin | 15.5 g | C1(=CC=CC=C1)N1C(=O)N(C(=O)C1C)SC(Cl)(Cl)Cl | C11H9Cl3N2O2S
